US03976677
6.7 g of potassium 2,6-di-t-butyl-p-cresolate in 30 cc of toluene were introduced into a 4-neck flask, having a capacity of 100 cc, provided with stirrer, thermometer and gas inlet pipe. In a carbon dioxide atmosphere 3.1 g of acetophenone (phenate: substrate molar ratio = 1 : 1) were added; the whole was stirred at 20°C for 4 hours and then acidified with cold sulphuric acid at 10% concentration. The organic phase separated, and was then extracted with a 10% sodium carbonate aqueous solution. 0.9 g of benzoylacetic acid were isolated by acidification and extraction with ether. 2.3 g of acetophenone were recovered from the organic phase.

reactant | potassium 2,6-di-t-butyl-p-cresolate | 6.7 g | C(C)(C)(C)C1(CC(=CC(=C1O)C(C)(C)C)C)C(=O)[O-].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | toluene | 30 cc | C1(=CC=CC=C1)C | C7H8
product | benzoylacetic acid | 0.9 g | C(C1=CC=CC=C1)(=O)CC(=O)O | C9H8O3
